* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM4146C.asc
* Generated by LTspice 24.1.9 for Windows.
V3 VI+ 0 PULSE(0 5 1u 2n 2n 9.998u 20u)
V4 VI- 0 PULSE(5 0 1u 2n 2n 9.998u 20u)
V1 VDD1 0 5
V6 VDD2 0 15
V7 N004 0 PWL(0 24 47u 24 51u 38 65u 38 69u 24 80u 24)
C1 0 DESAT 10p
C2 GATE_SENSE 0 1.49n
R1 VDD1 N001 10k
R2 VDD1 READY 10k
R3 VDD1 _FAULT 10k
R4 GATE_SENSE VOUT_ON 3.9
R5 GATE_SENSE VOUT_OFF 3.9
R6 N002 DESAT 1k
R7 N004 N003 1
M2 N003 GATE_SENSE 0 0 BSC12DN20NS3
V5 N005 0 0
V2 N001 0 PWL(0 5 70u 5 70.1u 0 80u 0 80.1u 5)
C3 VDD1 0 0.01µ
C4 VDD2 0 0.01µ
C5 0 N005 0.01µ
R8 VDD2 DESAT 100k
X§U1 0 VI+ VI- READY _FAULT N001 VDD1 N005 DESAT 0 VOUT_OFF VDD2 VOUT_ON GATE_SENSE ADuM4146C
D1 N002 N003 MMSD4148
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100u
.lib ADuM4146C.sub
.backanno
.end
